US08685969B2
7-(2-Hydroxypropan-2-yl)-1-(3-(6-methoxy-1-oxoisoindolin-2-yl)-2-methylphenyl)-5H-pyridazino[4,5-b]indole-4-carboxamide
To a solution of 7-acetyl-1-(3-(6-methoxy-1-oxoisoindolin-2-yl)-2-methylphenyl)-5H-pyridazino[4,5-b]indole-4-carboxamide (36.0 mg, 0.071 mmol) in tetrahydrofuran (8 mL) at 0° C. was added methylmagnesium bromide (0.119 mL, 0.356 mmol). The mixture was stirred at room temperature for 20 min. Additional methylmagnesium bromide (0.119 mL, 0.356 mmol) was added at 0° C. and the mixture was stirred at room temperature for another 20 min. The reaction was quenched with water (15 mL). The resulting mixture was extracted with ethyl acetate (3×30 mL). The combined extract was washed with brine (25 mL) and dried over anhydrous MgSO4. After solvent was removed under vacuum, the residue was purified by reverse phase HPLC. The correct fraction was concentrated under vacuum, basified with saturated NaHCO3 solution, and extracted with ethyl acetate (3×35 mL). The combined extract was washed with brine (30 mL) and dried over anhydrous MgSO4. Removal of solvent under vacuum provided the desired product (11.4 mg, 0.021 mmol, 30.1% yield) as a white solid. LCMS (M+H)+=522.20. 1H NMR (500 MHz, DMSO-d6) δ: 12.34 (s, 1H), 8.75 (s, 1H), 8.07 (s, 1H), 8.00 (s, 1H), 7.73 (d, J=6.9 Hz, 1H), 7.61-7.57 (m, 2H), 7.51 (d, J=6.4 Hz, 1H), 7.35-7.33 (m, 2H), 7.27-7.25 (m, 2H), 5.19 (s, 1H), 4.98 (d, J=16.9 Hz, 1H), 4.90 (d, J=16.9 Hz, 1H), 3.86 (s, 3H), 1.90 (s, 3H), 1.49 (s, 6H).

reactant | 7-acetyl-1-(3-(6-methoxy-1-oxoisoindolin-2-yl)-2-methylphenyl)-5H-pyridazino[4,5-b]indole-4-carboxamide | 0.071 mmol, 36.0 mg | C(C)(=O)C=1C=CC=2C3=C(NC2C1)C(=NN=C3C3=C(C(=CC=C3)N3C(C1=CC(=CC=C1C3)OC)=O)C)C(=O)N | C29H23N5O4
reactant | methylmagnesium bromide | 0.356 mmol, 0.119 mL | C[Mg]Br
reactant | methylmagnesium bromide | 0.356 mmol, 0.119 mL | C[Mg]Br
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 7-(2-Hydroxypropan-2-yl)-1-(3-(6-methoxy-1-oxoisoindolin-2-yl)-2-methylphenyl)-5H-pyridazino[4,5-b]indole-4-carboxamide | 0.021 mmol, 11.4 mg, 30.1% yield | OC(C)(C)C=1C=CC=2C3=C(NC2C1)C(=NN=C3C3=C(C(=CC=C3)N3C(C1=CC(=CC=C1C3)OC)=O)C)C(=O)N | C30H27N5O4
